US07888364B2
3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (100 mg, 0.24 mmol) was dissolved in 1,4-dioxane (5.0 ml), treated with triethylamine (274 μL, 1.97 mmol) and 2-bromoacetyl bromide (121 μl, 1.39 mmol). The reaction was heated to reflux for 10 minutes, and stirred at room temperature for 18 hours. The reaction was quenched with water, and extracted twice with ethyl acetate. The ethyl acetate extracts were filtered, washed with water once, brine once, dried with MgSO4, evaporated to 158 mg of a crude brown oil, 3-(2-bromoacetamido)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide, which was used without further purification. Crude 3-(2-bromoacetamido)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonyl-methyl)benzamide (158 mg) was dissolved in DMF, treated with N-ethyl-N-isopropylpropan-2-amine (61 μl, 0.35 mmol) and pyrrolidine (27 μl, 0.32 mmol), and stirred at room temperature for 18 hours. The reaction was quenched with water and extracted with ethyl acetate twice. The ethyl acetate extracts were washed with water once, brine once, dried with MgSO4, evaporated to a tan solid which was purified by reverse phase HPLC to afford 27 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(pyrrolidin-1-yl)acetamido)benzamide as a white powder. MS (Q1) 527 (M)+.

reactant | 3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.24 mmol, 100 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C20H18ClN3O3S
reactant | triethylamine | 1.97 mmol, 274 μL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetyl bromide | 1.39 mmol, 121 μl | BrCC(=O)Br | C2H2Br2O
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.35 mmol, 61 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 0.32 mmol, 27 μl | N1CCCC1 | C4H9N
solvent | 1,4-dioxane | 5.0 ml | O1CCOCC1 | C4H8O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(pyrrolidin-1-yl)acetamido)benzamide | 27 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)NC(CN1CCCC1)=O)=O)C1=NC=CC=C1 | C26H27ClN4O4S
